US06632810B2
Synthesis of N,N′-bis[(1-methyl-4,5,6-trimethoxybenzimidazol-2-yl)methyl]homopiperazine:
2-Chloromethyl-1-methyl-4,5,6-trimethoxybenzimidazole (75 mg) and homopiperazine (11 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-1-methyl-4,5,6-trimethoxybenzimidazole | 75 mg | ClCC1=NC2=C(N1C)C=C(C(=C2OC)OC)OC | C12H15ClN2O3
reactant | homopiperazine | 11 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[(1-methyl-4,5,6-trimethoxybenzimidazol-2-yl)methyl]homopiperazine | CN1C(=NC2=C1C=C(C(=C2OC)OC)OC)CN2CCN(CCC2)CC2=NC1=C(N2C)C=C(C(=C1OC)OC)OC | C29H40N6O6
